US04322370
A solution of 4-(3-trifluoromethylphenyl)-7-methoxy-1-tetralone (3.1 g) in acetic acid (25 ml) and hydrobromic acid (48%, 25 ml) was heated under reflux for 16 hr. The solution was concentrated in vacuo, water was added and the mixture extracted with ethyl acetate, the extracts washed well with water and sodium bicarbonate solution, dried (MgSO4) and the solvent removed to leave 4-(3-trifluoromethylphenyl)-7-hydroxy-1-tetralone as a dark green oil, used without purification. The oil was taken up in dry toluene (50 ml), sodium hydride (80%) dispersion in oil, 0.45 g) added and the mixture heated to the point of reflux. Dimethylaminoethyl chloride (1.2 g) was added to the cooled mixture, which was then heated under reflux for 5 hr. The solvent was removed, ethyl acetate-water added and the organic layer separated, washed with sodium bicarbonate solution, dried (K2CO3), passed through a short alumina column, and the solvent removed to give impure 4-(3-trifluoromethylphenyl)-7-(2-dimethylaminoethoxy)-1 -tetralone. The pure hydrochloride was obtained as off-white prisms after two recrystallisations from ether-ethanol (0.9 g, 22%), m.p. 203°-207°.

reactant | 4-(3-trifluoromethylphenyl)-7-methoxy-1-tetralone | 3.1 g | FC(C=1C=C(C=CC1)C1CCC(C2=CC(=CC=C12)OC)=O)(F)F | C18H15F3O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | hydrobromic acid | 25 ml | Br | BrH
product | 4-(3-trifluoromethylphenyl)-7-hydroxy-1-tetralone | FC(C=1C=C(C=CC1)C1CCC(C2=CC(=CC=C12)O)=O)(F)F | C17H13F3O2
